US03954784
2-methyl-3,4-diethyl-7-benzylimidazo[2,1-b]thiazolium chloride;
2-n-propyl-3,4-diethyl-7-(p-fluorobenzyl)imidazo[2,1-b]thiazolium chloride, 2-i-propyl-7-(p-fluorobenzyl)imidazo[2,1b]thiazolium chloride; 3-phenyl-7-(o-methoxybenzyl)imidazo[2,1-b]thiazolium bromide; 3-adamantyl-6-phenyl-7-(m-trifluorobenzyl)imidazo[2,1-b]thiazolium bromide; 3-(3,5-dimethoxybenzyl)-7-benzylimidazo[2,1-b]thiazolium chloride, 3-methyl-7-(p-phenylbenzyl)imidazo[2,1-b]thiazolium bromide; 3-(2,4-dimethylbenzyl)-6-methyl-7-(p-chlorobenzyl)imidazo[2,1-b]thiazolium bromide; 3-(p-chlorophenyl)-7-propargylimidazo[2,1-b]thiazolium bromide; 3,6-bis(2,4-dimethylphenyl)-7-benzylimidazo[2,1-b]thiazolium chloride; 1-(p-fluorobenzyl-5,6,7,8-tetrahydroimidazo[2,1-b]benzthiazolium chloride and 1-propargyl-5,6,7,8-tetrahydroimidazo[2,1-b]benzthiazolium bromide.

reactant | 2-n-propyl-3,4-diethyl-7-(p-fluorobenzyl)imidazo[2,1-b]thiazolium chloride | [Cl-].C(CC)C1=C([N+]2(C(S1)N(C=C2)CC2=CC=C(C=C2)F)CC)CC
reactant | 3-phenyl-7-(o-methoxybenzyl)imidazo[2,1-b]thiazolium bromide | [Br-].C1(=CC=CC=C1)C=1[N+]2=C(SC1)N(C=C2)CC2=C(C=CC=C2)OC
reactant | 3-(3,5-dimethoxybenzyl)-7-benzylimidazo[2,1-b]thiazolium chloride | [Cl-].COC=1C=C(CC=2[N+]3=C(SC2)N(C=C3)CC3=CC=CC=C3)C=C(C1)OC
reactant | 3-methyl-7-(p-phenylbenzyl)imidazo[2,1-b]thiazolium bromide | [Br-].CC=1[N+]2=C(SC1)N(C=C2)CC2=CC=C(C=C2)C2=CC=CC=C2
reactant | 3-(2,4-dimethylbenzyl)-6-methyl-7-(p-chlorobenzyl)imidazo[2,1-b]thiazolium bromide | [Br-].CC1=C(CC=2[N+]3=C(SC2)N(C(=C3)C)CC3=CC=C(C=C3)Cl)C=CC(=C1)C
reactant | 3-(p-chlorophenyl)-7-propargylimidazo[2,1-b]thiazolium bromide | [Br-].ClC1=CC=C(C=C1)C=1[N+]2=C(SC1)N(C=C2)CC#C
reactant | 3,6-bis(2,4-dimethylphenyl)-7-benzylimidazo[2,1-b]thiazolium chloride | [Cl-].CC1=C(C=CC(=C1)C)C=1[N+]2=C(SC1)N(C(=C2)C2=C(C=C(C=C2)C)C)CC2=CC=CC=C2
reactant | p-fluorobenzyl-5,6,7,8-tetrahydroimidazo[2,1-b]benzthiazolium chloride | [Cl-].FC1=CC=C(C[N+]=2C=CN3C2SC2=C3CCCC2)C=C1
reactant | 1-propargyl-5,6,7,8-tetrahydroimidazo[2,1-b]benzthiazolium bromide | [Br-].C(C#C)[N+]=1C=CN2C1SC1=C2CCCC1
product | 2-methyl-3,4-diethyl-7-benzylimidazo[2,1-b]thiazolium chloride | [Cl-].CC1=C([N+]2(C(S1)N(C=C2)CC2=CC=CC=C2)CC)CC | InChI=1S/C17H23N2S.ClH/c1-4-16-14(3)20-17-18(11-12-19(16,17)5-2)13-15-9-7-6-8-10-15;/h6-12,17H,4-5,13H2,1-3H3;1H/q+1;/p-1
